US04888025
Preparation of 1-(2'-acetylamino-5'-nitrophenoxy)-3-succinimidopropan-2-ol
0.072 mol (18.2 g) of 1-(2'-acetylamino-5'-nitrophenoxy)-2,3-epoxypropane is introduced into 60 ml of absolute ethanol to which 6 drops of pyridine have been added. 0.087 mol (8.6 g) of succinimide is added and the mixture is then heated under reflux for 5 hours. After cooling, 150 ml of water are added and the alcohol is driven off in vacuo. The expected product, which is obtained initially in the form of a water-insoluble oil, crystallises slowly. It is filtered off and recrystallised from 96° strength alcohol. After drying, it melts at 157° C.

reactant | 1-(2'-acetylamino-5'-nitrophenoxy)-2,3-epoxypropane | 0.072 mol, 18.2 g | C(C)(=O)NC1=C(OCC2CO2)C=C(C=C1)[N+](=O)[O-] | C11H12N2O5
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | succinimide | 0.087 mol, 8.6 g | C1(CCC(N1)=O)=O | C4H5NO2
catalyst | pyridine | 6 drops | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | water | 150 ml | O | H2O
product | 1-(2'-acetylamino-5'-nitrophenoxy)-3-succinimidopropan-2-ol | C(C)(=O)NC1=C(OCC(CN2C(CCC2=O)=O)O)C=C(C=C1)[N+](=O)[O-] | C15H17N3O7
